US07557213B2
Preparation of 1-[1-(6-Bromo-pyridin-2-yl)-ethyl]-3-(3,4-dimethyl-benzoyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 3 of Example 1, from 52 mg (0.19 mmol) of 3-(3,4-dimethyl-benzoyl)-1H-quinolin-4-one, 9 mg (0.23 mmol) of 60% sodium hydride, 60 mg (0.23 mmol) of 2-bromo-6-(1-bromo-ethyl)-pyridine and 0.7 mL of N,N-dimethylformamide. Yield: 32 mg of a white solid: LC-MSD, m/z for C25H21BrN2O2 [M+H]+=461.0, 463.0; HPLC retention time: 2.6 min.

reactant | 3-(3,4-dimethyl-benzoyl)-1H-quinolin-4-one | 0.19 mmol, 52 mg | CC=1C=C(C(=O)C2=CNC3=CC=CC=C3C2=O)C=CC1C | C18H15NO2
reactant | sodium hydride | 0.23 mmol, 9 mg | [H-].[Na+]
reactant | 2-bromo-6-(1-bromo-ethyl)-pyridine | 0.23 mmol, 60 mg | BrC1=NC(=CC=C1)C(C)Br | C7H7Br2N
solvent | N,N-dimethylformamide | 0.7 mL | CN(C=O)C | C3H7NO
product | 1-[1-(6-Bromo-pyridin-2-yl)-ethyl]-3-(3,4-dimethyl-benzoyl)-1H-quinolin-4-one | BrC1=CC=CC(=N1)C(C)N1C=C(C(C2=CC=CC=C12)=O)C(C1=CC(=C(C=C1)C)C)=O | C25H21BrN2O2
